US07696213B2
6-(6-Methoxypyridin-3-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one
To a solution of 6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (50 mg, 0.17 mmol), 6-methoxypyridin-3-ylboronic acid (40.1 mg, 1.1 equiv), dichlorobis(triphenylphosphine) palladium(II) (6.13 mg, 0.008 mmol), DMF (2 mL) in a 5 mL microwave vial was added potassium carbonate (3 M, 1.1 equiv). The solution was degassed with N2 for 10 min before being capped and heated in the microwave reactor for 1 h. at 100° C. The reaction was poured into 20 ml brine and the precipitate was collected by filtration. It was further purified by chromatography (80% thylacetate/hexane). The title compound was obtained as a solid (30 mg, 55% yield).

reactant | 6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.17 mmol, 50 mg | BrC1=CC2=C(N=C(N=C2C)SC)NC1=O | C9H8BrN3OS
reactant | 6-methoxypyridin-3-ylboronic acid | 40.1 mg, 1.1 equiv | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | potassium carbonate | 3 M, 1.1 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(6-Methoxypyridin-3-yl)-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | COC1=CC=C(C=N1)C1=CC2=C(N=C(N=C2C)SC)NC1=O | C15H14N4O2S
